US05863865
To a stirred solution of tert-butyl 3-cyclopropyl-3-oxopropionate (9.2 g) in ethyl ether (200 mL) was added magnesium ethoxide (5.7 g). The reaction mixture was heated at reflux for 1 hour. After cooling back to room temperature, a solution of 2-methyl-3-ethoxy-4-methylsulfonylbenzoyl chloride (13.8 g), which was prepared from 2-methyl-3-ethoxy-4-methylsulfonylbenzoic acid (the preparation of which is described in U.S. Pat. No. 5,329,041 which is incorporated herein by reference) and oxalyl chloride, in ethyl ether (50 mL) was added over a period of 15 minutes. After stirring overnight at room temperature, the reaction mixture was poured over ice-water (100 mL), and the phases were separated. The ether layer was dried over magnesium sulfate and then concentrated in vacuo to afford 17 g of the crude product as an oil.

reactant | tert-butyl 3-cyclopropyl-3-oxopropionate | 9.2 g | C1(CC1)C(CC(=O)OC(C)(C)C)=O | C10H16O3
reactant | magnesium ethoxide | 5.7 g | [O-]CC.[Mg+2].[O-]CC
reactant | 2-methyl-3-ethoxy-4-methylsulfonylbenzoic acid | CC1=C(C(=O)O)C=CC(=C1OCC)S(=O)(=O)C | C11H14O5S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-methyl-3-ethoxy-4-methylsulfonylbenzoyl chloride | 13.8 g | CC1=C(C(=O)Cl)C=CC(=C1OCC)S(=O)(=O)C | C11H13ClO4S
